US20010000345A1
To a suspension of 2 g of 2-methyl-3-nitroaniline and 1.02 g of arsenic(v) oxide hydrate are added 2.88 mL of glycerin followed by 1.09 mL of concentrated sulfuric acid. The resulting black slurry is stirred at about 150° C. for 4 hours. The black oil is cooled to room temperature, diluted with water and poured into a mixture of 25% aqueous ammonium hydroxide and ethyl acetate. The organic layer is washed with water followed by brine. The aqueous layers are extracted with ethyl acetate; the combined organic layers are dried over magnesium sulfate, filtered and rotary evaporated. The residue is purified by flash column chromatography on silica gel, eluting with 50% ethyl acetate/hexanes followed by recrystallization from hexanes/methylene chloride to provide 1.45 g of 8-methyl-7-nitroquinoline as a pale brown solid.

reactant | 2-methyl-3-nitroaniline | 2 g | CC1=C(N)C=CC=C1[N+](=O)[O-] | C7H8N2O2
reactant | arsenic(v) oxide hydrate | 1.02 g | O.[As+3]=O
reactant | sulfuric acid | 1.09 mL | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | glycerin | 2.88 mL | OCC(O)CO | C3H8O3
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-methyl-7-nitroquinoline | 1.45 g | CC=1C(=CC=C2C=CC=NC12)[N+](=O)[O-] | C10H8N2O2
